US07521462B2
N-(2-Methylpropyl)-N-[(benzothien-7-yl)methyl]piperidin-4-amine fumarate
To a solution of 1,1-dimethylethyl 4-{[(1-benzothien-7-yl)methyl]-(2-methylpropyl)amino}-piperidine-1-carboxylate (0.66 g, 1.6 mmol, 1 eq) in dichloromethane (10 ml) is added anisole (2 ml) and trifluoroacetic acid (2 ml). The solution is stirred at room temperature for 16 h. The solvent and trifluoroacetic acid are removed in vacuo. The resulting oil is taken up in methanol and loaded onto an SCX-2 (10 g) column. The column is washed with methanol (50 ml). Basic material is then eluted using 2M ammonia in methanol (50 ml). Removal of solvent from the ammonia/methanol mixture under vacuum, gave the desired compound (0.34 g, 75%) as an oil. This is taken up in diethyl ether (5 ml) and a solution of fumaric acid (0.13 g, 1 eq) in hot methanol (1 ml) is added. The mixture is left at room temperature for 1 hr. The resulting precipitate is collected by filtration to give a white solid, which is dried in a vacuum oven at 40° C. for 16 hours. This gives the title product as a white solid (0.24 g, 35%); mass spectrum (LCMS): m/z=303.1 (M+30 1), Rt=4.72 (12 min gradient); 1H NMR (300 MHz, MeOD): δ=7.81-7.71 (1 H, m), 7.59-7.51 (1 H, m), 7.42-7.29 (3 H, m), 6.69 (2H, s), 3.97 (2 H, s), 3.46-3.38 (2 H, m), 2.96-2.75 (3 H, m), 2.35 (2 H, d), 2.18-2.01 (2 H, m), 1.95-1.65 (3 H, m) and 0.90 (6 H, d).

reactant | 1,1-dimethylethyl 4-{[(1-benzothien-7-yl)methyl]-(2-methylpropyl)amino}-piperidine-1-carboxylate | 1.6 mmol, 0.66 g, 1 eq | S1C=CC2=C1C(=CC=C2)CN(C2CCN(CC2)C(=O)OC(C)(C)C)CC(C)C | C23H34N2O2S
reactant | anisole | 2 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-(2-Methylpropyl)-N-[(benzothien-7-yl)methyl]piperidin-4-amine fumarate | 0.34 g, 75% | C(\C=C\C(=O)O)(=O)O.CC(CN(C1CCNCC1)CC1=CC=CC=2C=CSC21)C | InChI=1S/C18H26N2S.C4H4O4/c1-14(2)12-20(17-6-9-19-10-7-17)13-16-5-3-4-15-8-11-21-18(15)16;5-3(6)1-2-4(7)8/h3-5,8,11,14,17,19H,6-7,9-10,12-13H2,1-2H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
